US04303660
16.1 g (0.075 mole) of 1-amino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline are dissolved in 100 ml of pyridine. 80 ml of acetic anhydride are added and the reaction mixture is left to stand at room temperature for 1 day. The crystals separated spontaneously are filtered off and the mother liquor is evaporated. The collected crystals are washed with water and dried. Thus, 16.7 g (82%) of 1-acetamino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline are obtained. M.p.: 228°-230° C.

reactant | 1-amino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 0.075 mole, 16.1 g | NC=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C12H14N4
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetamino-5,5-dimethyl-5,6-dihydropyrazolo[1,5-c]quinazoline | 16.7 g, 82% | N(C(=O)C)C=1C=NN2C(NC=3C=CC=CC3C21)(C)C | C14H16N4O
